US05281571
34.5 g of 1-(2,5-difluorophenyl)-3-(trifluoromethyl)-propane-1,3-dione was dissolved in 250 ml of acetic acid and 9.5 mL of methylhydrazine slowly added. The mixture was heated at 100° C. for 5 minutes then cooled and diluted with ether. The ether solution was washed with water and potassium carbonate solution, then dried with magnesium sulfate, filtered and concentrated. The residue was chromatographed to give 9.5 g of 3-(2,5-difluorophenyl)-1-methyl-5-(trifluoro-methyl)-1H-pyrazole.

reactant | 1-(2,5-difluorophenyl)-3-(trifluoromethyl)-propane-1,3-dione | 34.5 g | FC1=C(C=C(C=C1)F)C(CC(=O)C(F)(F)F)=O | C10H5F5O2
reactant | methylhydrazine | 9.5 mL | CNN | CH6N2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 3-(2,5-difluorophenyl)-1-methyl-5-(trifluoro-methyl)-1H-pyrazole | 9.5 g | FC1=C(C=C(C=C1)F)C1=NN(C(=C1)C(F)(F)F)C | C11H7F5N2
